US04997943
0.11 g (0.0004 mole) of 6,7-difluoro-1-(2-fluoroethyl)-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (prepared as described in Preparation 15) and 0.20 g (0.002 mole) of N-methylpiperazine were dissolved in 3 ml of dimethyl sulfoxide, and the mixture was stirred at 70° C. for 6 hours. At the end of this time, the solvent and excess N-methylpiperazine were distilled off at the same temperature and under reduced pressure, and the residue was washed with ethyl acetate to give a pale-yellow powder. This powder was suspended in a mixture of 20 ml of ethanol and 1 ml of concentrated hydrochloric acid, and the suspension was concentrated by evaporation under reduced pressure. 20 ml of water were added to the residue, and the mixture was filtered to remove insoluble materials. The filtrate was concentrated by evaporation under reduced pressure to give 30 mg of 6-fluoro-1-(2-fluoroethyl)-8-methoxy-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride as a colorless powder melting at 270°-272° C. (with decomposition).

reactant | 6,7-difluoro-1-(2-fluoroethyl)-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.0004 mole, 0.11 g | FC=1C=C2C(C(=CN(C2=C(C1F)OC)CCF)C(=O)O)=O | C13H10F3NO4
reactant | N-methylpiperazine | 0.002 mole, 0.20 g | CN1CCNCC1 | C5H12N2
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-fluoro-1-(2-fluoroethyl)-8-methoxy-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 30 mg | Cl.FC=1C=C2C(C(=CN(C2=C(C1N1CCN(CC1)C)OC)CCF)C(=O)O)=O | InChI=1S/C18H21F2N3O4.ClH/c1-21-5-7-22(8-6-21)15-13(20)9-11-14(17(15)27-2)23(4-3-19)10-12(16(11)24)18(25)26;/h9-10H,3-8H2,1-2H3,(H,25,26);1H
